US09102614B2
Preparation of ethyl 2-(4-bromo-3-methyl-1-(trifluoromethylsulfonyloxy) naphthalen-2-yl)-2-tert-butoxyacetate:
A flask was charged with N-phenyl-trifluoromethanesulfonimide (2.70 g, 7.57 mmol), Cs2CO3 (2.47 g, 7.57 mmol), and THF (20 mL). A solution of ethyl 2-(4-bromo-1-hydroxy-3-methylnaphthalen-2-yl)-2-tert-butoxyacetate (1.50 g, 3.78 mmol) in THF (25 mL) was added with stirring at 23° C. After 30 min, the reaction was added over 5 min to a premixed solution of 2 M NaHSO4 (30 mL) and saturated aq. Na2HPO4 (100 mL) at 23° C. The system was extracted with EtOAc/hexane (10:1, 3×50 mL). Combined organic phases were dried (Na2SO4), filtered, concentrated, dissolved in hexane, and concentrated again. The residue was treated with benzene and wet-loaded onto a silica gel column and purified by flash chromatography (hexanes→ethyl acetate/hexanes 1:4) giving the desired product (1.37 g, 69% yield). 1H NMR (400 MHz, CDCl3) δ 8.41 (d, J=8.8 Hz, 1H), 8.06 (d, J=8.8 Hz, 1H), 7.70 (dd, J=8.8, 8.8 Hz, 1H), 7.64 (dd, J=8.8, 8.8 Hz, 1H), 5.77 (s, 1H), 4.28-4.02 (m, 2H), 2.66 (s, 3H), 1.21 (s, 9H), 1.20 (t, J=7.0 Hz, 3H). 19F NMR (377 MHz, CDCl3) δ−73.2 (s).

reactant | N-phenyl-trifluoromethanesulfonimide | 7.57 mmol, 2.70 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | Cs2CO3 | 7.57 mmol, 2.47 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | ethyl 2-(4-bromo-1-hydroxy-3-methylnaphthalen-2-yl)-2-tert-butoxyacetate | 3.78 mmol, 1.50 g | BrC1=C(C(=C(C2=CC=CC=C12)O)C(C(=O)OCC)OC(C)(C)C)C | C19H23BrO4
reactant | NaHSO4 | 2 M, 30 mL | OS(=O)(=O)[O-].[Na+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | ethyl 2-(4-bromo-3-methyl-1-(trifluoromethylsulfonyloxy) naphthalen-2-yl)-2-tert-butoxyacetate | 1.37 g, 69% yield | BrC1=C(C(=C(C2=CC=CC=C12)OS(=O)(=O)C(F)(F)F)C(C(=O)OCC)OC(C)(C)C)C | C20H22BrF3O6S
